US05821261
Step C: (4R)-1-(tert-Butyloxycarbonyl)-4-(aminomethyl)-L-Proline Methyl Ester
A solution (4R)-1-(tert-butyloxycarbonyl)-4-cyano-L-proline methyl ester (204 mg, 0.802 mmol) in 90% ethanol (12 mL) was hydrogenated in the presence of 10% palladium-on-charcoal (60 mg) at 450 psi for 24 hours. The catalyst was removed by filtration through Celite, the filter washed with ethanol, and the combined filtrate and washings evaporated. Purification was achieved by flash silica gel chromatography eluting with 95:5:0.5 chloroform-methanol-ammonia; yield 66 mg (32%).

reactant | (4R)-1-(tert-butyloxycarbonyl)-4-cyano-L-proline methyl ester | 0.802 mmol, 204 mg | COC([C@H]1N(C[C@@H](C1)C#N)C(=O)OC(C)(C)C)=O | C12H18N2O4
solvent | ethanol | 12 mL | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 60 mg | [Pd] | Pd
product | (4R)-1-(tert-Butyloxycarbonyl)-4-(aminomethyl)-L-Proline Methyl Ester | COC([C@H]1N(C[C@H](C1)CN)C(=O)OC(C)(C)C)=O | C12H22N2O4
